US05424316
A mixture of ethyl 2-n-propyl-3-[2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (2.00 g), potassium carbonate (1.16 g), benzyl bromide (0.72 g) and dimethylformamide (10 ml) is stirred under ice-cooling for two hours. The mixture is diluted with ethyl acetate, and the solution is washed with water, dried and evaporated. The residue is purified by silica gel column chromatography (solvent; n-hexane/ethyl acetate) to give ethyl 5-benzyl-2-n-propyl-3-[2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (1.50 g) as a white foam.

reactant | ethyl 2-n-propyl-3-[2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 2.00 g | C(CC)C1=NC2=C(C(NCC2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H43N7O2
reactant | potassium carbonate | 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.72 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-benzyl-2-n-propyl-3-[2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 1.50 g | C(C1=CC=CC=C1)N1C(C2=C(CC1)N=C(N2CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCC)C(=O)OCC | C52H49N7O2
